US04108885
N-(3-dimethylammoniopropyl)-carbamic acid butyl ester chloride
21.0 g (0.1 mole) of N-(3-dimethylammoniopropyl)-carbamic acid ethyl ester chloride are suspended in 100 ml of n-butanol. Dry HCl gas is introduced into the suspension for a short time and the mixture is heated for 6 hours at 100° to 115° C while stirring, the hydrochloride going into solution and some ml of liquid distilling off. Then concentrate and drag the residue in vacuum. One obtains 18.0 g of nD20 = 1.4750.

reactant | N-(3-dimethylammoniopropyl)-carbamic acid ethyl ester chloride | 0.1 mole, 21.0 g | [Cl-].C(C)OC(NCCC[NH+](C)C)=O
reactant | HCl | Cl | ClH
reactant | n-butanol | 100 ml | C(CCC)O | C4H10O
product | N-(3-dimethylammoniopropyl)-carbamic acid butyl ester chloride | [Cl-].C(CCC)OC(NCCC[NH+](C)C)=O | InChI=1S/C10H22N2O2.ClH/c1-4-5-9-14-10(13)11-7-6-8-12(2)3;/h4-9H2,1-3H3,(H,11,13);1H
